* AD815 Spice Macro-model                  
* Description: Amplifier
* Generic Desc: High output differential driver amp
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (09/1996)
* Copyright 1996, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled: 
*     distortion is not characterized
*
* Parameters modeled include: 
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies
*     vnoise, referred to the input
*     inoise, referred to the input
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD815an  1 2 99 50 61


***** Input Stage

q1 50 41 4 qp1 
q2 99 41 3 qn1
i1 99 4 1e-4
i2 3 50 1e-4

fni 99 2 vn2 1
fnn 99 1 vn2 0.1

*ibneg 2 99 10e-6
*ibpos 1 99 2e-6

cin1 4 88 1.4pf
cin2 2 88 1.4pf

q3 9 4 2 qn2
q4 10 3 2 qp2

rxxa 99 4 28k
rxxb 3 50 28k
  

VT1 99 9 0   ;ammeters for monitoring
VT2 50 10 0  ;current thru Q3, Q4
eos 41 1 poly(1) 43 88 5e-3 1

***** internal vnoise source

dn1 42 88 dnv
rn1 42 88 5e-3
vn1 42 88 0

hn1 43 88 vn1 1
rn2 43 88 1

***** internal inoise source

dn2 72 88 dniinv
rn3 72 88 50
vn2 72 88 0

hn2 73 88 vn2 1
rn4 73 88 1

***** internal reference

Eref 88 0 poly(2) 99 0 50 0 0 0.5 0.5

***** gain stage/dominant pole/clamp circuitry

f3 88 31 vt1 0.7e-4
f4 88 31 vt2 0.7e-4
dgain1 88 31 dy
dgain2 31 88 dy

egain1 28 88 31 88 143000
r3 28 29 5
c1 29 88 4500nf

vc1 99 45 3.65
vc2 46 50 3.65
dc1 29 45 dx
dc2 46 29 dx

***** pole at 100MHz

egain2 32 88 88 29 1
r4 32 44 0.001
c3 44 88 1500000p

***** buffer to output stage

gbuf 34 88 44 88 1e-2
re1 34 88 100

***** output stage

fo1 88 110 vcd 1
do1 110 111 dx
do2 112 110 dx
vi1 111 88 0
vi2 88 112 0

fsy 99 50 poly(2) vi1 vi2 5.61e-4 1 1

go3 60 99 99 34 0.385
go4 50 60 34 50 0.385
r03 60 99 2.6 
r04 60 50 2.6 
vcd 60 62 0   
lo1 62 61 1e-10
ro2 61 88 1e9
do5 34 70 dx
do6 71 34 dx
vo1 70 60 0.45
vo2 60 71 0.45

.model dx d(is=1e-13 kf=1e-30 af=0)
.model dy d(is=26e-9 kf=1e-30 af=0)
.model dnv d(is=1e-15 kf=2e-15 af=0)
.model dniinv d(is=1e-15 kf=1e-19 af=0)
.model qn1 npn(bf=200 kf=1e-30 af=0)
.model qn2 npn(bf=200 kf=1e-30 af=0)
.model qp1 pnp(bf=200 kf=1e-30 af=0)
.model qp2 pnp(bf=200 kf=1e-30 af=0)
.ends ad815an





